US08975265B2
{1-[4-(6-carbamoyl-8-methoxy-3-phenylimidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
A mixture of 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-8-methoxy-3-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (200 mg) and a solution of ammonia in methanol (7M, 2.65 mL) was heated at 120° C. for 6 hours under microwave irradiation. On cooling, the reaction mixture was concentrated in vacuo. Purification was achieved by chromatography on silica gel to give the title compound.

reactant | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-8-methoxy-3-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 200 mg | COC(=O)C=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2)OC | C31H33N3O5
reactant | ammonia | N | H3N
solvent | methanol | 7M, 2.65 mL | CO | CH4O
product | {1-[4-(6-carbamoyl-8-methoxy-3-phenylimidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2OC)C(N)=O)C1C1=CC=CC=C1)=O | C30H32N4O4
